US05907055
52 g of sodium 5-acetylamino-3-oxapentanoate were dissolved in 200 ml of water. 11.4 g of NaOH were added at 20° C., and the reaction mixture was then heated at 100° C. for 8 h until precursor was no longer detectable. Then 200 ml of EtOH were added and the pH was adjusted to about 6, resulting in pure crystals of sodium 5-amino-3-oxapentanoate. The crude product resulting after removal of the solvent by distillation as a mixture with sodium acetate weighing 63.3 g (corresponding to 100% of theory) could be employed without prior precipitation for the subsequent reaction.

reactant | sodium 5-acetylamino-3-oxapentanoate | 52 g | C(C)(=O)NCCOCC(=O)[O-].[Na+]
reactant | NaOH | 11.4 g | [OH-].[Na+]
reactant | EtOH | 200 ml | CCO | C2H6O
solvent | water | 200 ml | O | H2O
product | sodium 5-amino-3-oxapentanoate | NCCOCC(=O)[O-].[Na+] | InChI=1S/C4H9NO3.Na/c5-1-2-8-3-4(6)7;/h1-3,5H2,(H,6,7);/q;+1/p-1
